US09085540B2
Under an argon atmosphere, to a mixture of N-allylmorpholine (274 μL) and tetrahydrofuran (5 mL) was added 9-borabicyclo[3.3.1]nonane (0.5 M tetrahydrofuran solution 4.01 mL) under ice-cooling, followed by stirring at 60° C. for 1 hour. After leaving to be cooled, to the reactant were added a mixture of 5-(3-aminophenoxy)-3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide (1 g), N,N-dimethylformamide (10 mL), and potassium carbonate (1.39 g), water (1 mL), and a 1,1′-bis(diphenylphosphino)ferrocene palladium (II) dichloride-dichloromethane complex (164 mg), followed by stirring at 60° C. for 40 hours. The reactant was left to be cooled, and then chloroform was added thereto. Then, the insoluble matter was separated by filtration. The filtrate was washed with a saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform:methanol:28% aqueous ammonia=1000:10:1-150:10:1) to obtain 5-(3-aminophenoxy)-3-({4-(4-methylpiperazin-1-yl)-3-[3-(morpholin-4-yl) propyl]phenyl}amino)pyrazine-2-carboxamide (67 mg) as a pale yellow amorphous substance.

reactant | N-allylmorpholine | 274 μL | C(C=C)N1CCOCC1 | C7H13NO
reactant | 9-borabicyclo[3.3.1]nonane | 0.5 M, 4.01 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 5-(3-aminophenoxy)-3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazine-2-carboxamide | 1 g | NC=1C=C(OC=2N=C(C(=NC2)C(=O)N)NC2=CC(=C(C=C2)N2CCN(CC2)C)Br)C=CC1 | C22H24BrN7O2
reactant | potassium carbonate | 1.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(3-aminophenoxy)-3-({4-(4-methylpiperazin-1-yl)-3-[3-(morpholin-4-yl) propyl]phenyl}amino)pyrazine-2-carboxamide | 67 mg | NC=1C=C(OC=2N=C(C(=NC2)C(=O)N)NC2=CC(=C(C=C2)N2CCN(CC2)C)CCCN2CCOCC2)C=CC1 | C29H38N8O3
